US04014915
A solution of ethyl 2-tert-butoxycarbonyloxyiminoacetoacetate (646 mg.) in a mixture of tert-butyl alcohol (5 ml.) and water (5 ml.) was added at once to a solution of L-phenylalanine (330 mg.) and triethylamine (0.28 ml.) in a mixture of tert-butyl alcohol (8 ml.) and water (8 ml.) at room temperature. The mixture was stirred for 2 hours at room temperature. Water (100 ml.) was added to the reaction mixture and the mixture was adjusted to pH 7 with a 0.5M citric acid aqueous solution and washed twice with ethyl acetate (40 ml). The aqueous layer was adjusted to pH 3 with a 0.5M citric acid aqueous solution, followed by addition of a sodium chloride aqueous solution, and extracted twice with ethyl acetate (40 ml.). The extract was washed with water and dried. The solvent was distilled off under reduced pressure to give N-tert-butoxycarbonyl-L-phenylalanine (286 mg.).

reactant | ethyl 2-tert-butoxycarbonyloxyiminoacetoacetate | 646 mg | C(C)(C)(C)OC(=O)ON=C(C(=O)OCC)C(=O)C | C11H17NO6
reactant | L-phenylalanine | 330 mg | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | citric acid | 0.5M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tert-butyl alcohol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | water | 5 ml | O | H2O
solvent | tert-butyl alcohol | 8 ml | C(C)(C)(C)O | C4H10O
solvent | water | 8 ml | O | H2O
solvent | Water | 100 ml | O | H2O
product | N-tert-butoxycarbonyl-L-phenylalanine | 286 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
